US08470859B2
5-chloro-1-{3-chloro-5-[(methylamino)carbonyl]benzyl}-2-imino-1,2-dihydropyridine-3-carboxamide hydrobromide
(Step 3) To a solution of 2-amino-5-chloronicotinamide (0.15 g) in N,N-dimethylformamide (3 ml) was added 3-(bromomethyl)-5-chloro-N-methylbenzamide (0.28 g), and the mixture was stirred at 100° C. for 12 hr. The reaction mixture was diluted with ethyl acetate. The solvent was removed, and the obtained precipitate was dissolved in methanol and crystallized from ethyl acetate. The obtained crystals were recrystallized from methanol-ethyl acetate to give the title compound (0.11 g).

reactant | 2-amino-5-chloronicotinamide | 0.15 g | NC1=C(C(=O)N)C=C(C=N1)Cl | C6H6ClN3O
reactant | 3-(bromomethyl)-5-chloro-N-methylbenzamide | 0.28 g | BrCC=1C=C(C(=O)NC)C=C(C1)Cl | C9H9BrClNO
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-chloro-1-{3-chloro-5-[(methylamino)carbonyl]benzyl}-2-imino-1,2-dihydropyridine-3-carboxamide hydrobromide | 0.11 g | Br.ClC=1C=C(C(N(C1)CC1=CC(=CC(=C1)C(=O)NC)Cl)=N)C(=O)N | InChI=1S/C15H14Cl2N4O2.BrH/c1-20-15(23)9-2-8(3-10(16)4-9)6-21-7-11(17)5-12(13(21)18)14(19)22;/h2-5,7,18H,6H2,1H3,(H2,19,22)(H,20,23);1H
